US07642270B2
{4-[1-(2-Dimethylamino-acetyl)-piperidin-4-yl]-phenyl}-carbamic acid tert-butyl ester (0.72 mmol) was diluted in CH2Cl2 (3 mL) and TFA (3 mL) was added. After 1 h, the reaction mixture was concentrated. Water (2 mL) was added and the solution was frozen and lyophilized overnight to provide (0.11 g) (59%) of 1-[4-(4-amino-phenyl)-piperidin-1-yl]-2-dimethylamino-ethanone. 1H NMR (TFA salt) (400 MHz, CDCl3) δ (ppm): 10.54 (s, 1H), 7.52 (d, 2H, J=8.5 Hz), 7.20 (d, 2H, J=8.5 Hz), 4.10 (s, 2H), 3.34-3.37 (m, 2H), 2.97-3.12 (m, 3H), 2.85 (s, 6H), 1.88-1.91 (m, 2H), 1.69-1.78 (m, 2H).

reactant | {4-[1-(2-Dimethylamino-acetyl)-piperidin-4-yl]-phenyl}-carbamic acid tert-butyl ester | 0.72 mmol | C(C)(C)(C)OC(NC1=CC=C(C=C1)C1CCN(CC1)C(CN(C)C)=O)=O | C20H31N3O3
reactant | TFA | 3 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | 3 mL | C(Cl)Cl | CH2Cl2
product | 1-[4-(4-amino-phenyl)-piperidin-1-yl]-2-dimethylamino-ethanone | 0.11 g, 59% | NC1=CC=C(C=C1)C1CCN(CC1)C(CN(C)C)=O | C15H23N3O
